US07271193B2
1-Benzyl-1-methyl-4-oxo-piperidinium bromide (Compound No. 116)
To a solution of 1-methyl-4-piperidinone (15 g, 132.6 mmol) in dry acetone (100 mL) was added 1-bromomethylbenzene (24.9 g, 145 mmol) dropwise. It was stirred for 3 h. The title compound (116) separated which was filtered, washed with dry acetone and dried.

reactant | 1-methyl-4-piperidinone | 132.6 mmol, 15 g | CN1CCC(CC1)=O | C6H11NO
reactant | 1-bromomethylbenzene | 145 mmol, 24.9 g | BrCC1=CC=CC=C1 | C7H7Br
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 1-Benzyl-1-methyl-4-oxo-piperidinium bromide | [Br-].C(C1=CC=CC=C1)[N+]1(CCC(CC1)=O)C | InChI=1S/C13H18NO.BrH/c1-14(9-7-13(15)8-10-14)11-12-5-3-2-4-6-12;/h2-6H,7-11H2,1H3;1H/q+1;/p-1
